US05151436
A mixture of (±)-2-(3-quinolinyl)cyclohexanone (0.5 g, 2.2 mmol), (S)-(-)-1-amino-2-(methoxymethyl)pyrrolidine (`SAMP`)(0.28 g, 2.2 mmol) and p-toluenesulphonic acid (10 mg) was refluxed in toluene (15 ml) for 2.5 hours. The toluene was removed in vacuo (40° C./14 mmHg,) to give a crude oil which was partitioned between water (20 ml) and ethyl acetate (25 ml). The aqueous layer was extracted with ethyl acetate (2×25 ml) and the combined organic extracts were dried over sodium sulphate then concentrated in vacuo to give (2S)-(+)-2-(methoxymethyl) -1-[2-(3-quinolinyl)cyclohexylideneamino]pyrrolidine and (2S)-(-)-2-(methoxymethyl)-1-[2-(3-quinolinyl)cyclohexylideneamino]pyrrolidine as a 50:50 mixture of diastereoisomers (0.69 g, 2 mmol).

reactant | (±)-2-(3-quinolinyl)cyclohexanone | 2.2 mmol, 0.5 g | N1=CC(=CC2=CC=CC=C12)C1C(CCCC1)=O | C15H15NO
reactant | (S)-(-)-1-amino-2-(methoxymethyl)pyrrolidine | NN1[C@@H](CCC1)COC | C6H14N2O
reactant | p-toluenesulphonic acid | 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (2S)-(-)-2-(methoxymethyl)-1-[2-(3-quinolinyl)cyclohexylideneamino]pyrrolidine | COC[C@H]1N(CCC1)N=C1C(CCCC1)C=1C=NC2=CC=CC=C2C1 | C21H27N3O
